US07923450B2
a) 2-[1-Dimethylamino-methylidene]-6-ethoxy-cyclohexanone
2-Ethoxy-cyclohexanone (142 mg, 1.0 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (232 mg) as a yellow oil which was used directly in the next step.

reactant | 2-Ethoxy-cyclohexanone | 1.0 mmol, 142 mg | C(C)OC1C(CCCC1)=O | C8H14O2
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 2-[1-Dimethylamino-methylidene]-6-ethoxy-cyclohexanone | 232 mg | CN(C=C1C(C(CCC1)OCC)=O)C | C11H19NO2
